US05541324
3-(4-cyclopropylthiazol-2-yl)-4,5-dihydro-5-(morpholinocarbonyl)imidazo[1,5-a]quinoxaline (I)
A mixture of 4,5-dihydro-5-(morpholinocarbonyl)imidazo[1,5-a]quinoxaline-3-thiocarboxamide (0.29 g) and 1-bromomethyl cyclopropyl ketone (0.165 g) in ethanol (10 ml) is stirred at 20°-25° for 1 day and then at 80° for 5.5 hr, after which it stirred at 20°-25° for an additional 20 hr. The mixture is then concentrated under reduced pressure and chromatographed on silica gel eluting with methanol/dichloromethane (2/98). The product fractions are combined and rechromatographed using ethyl acetate/dichloromethane (25/75) to give a solid. Crystallization from dichloromethane/hexane gives the title compound; mp 193°-194°; MS (m/z) 407; IR (mineral oil) 1511, 1669, 1115, 1392, 1227 cm-1 ; NMR (CDCl3) 0.98, 2.09, 3.35, 3.66, 5.09, 6.79, 7.19, 7.28, 7.53, 8.01 δ.

reactant | 4,5-dihydro-5-(morpholinocarbonyl)imidazo[1,5-a]quinoxaline-3-thiocarboxamide | 0.29 g | O1CCN(CC1)C(=O)N1CC=2N(C3=CC=CC=C13)C=NC2C(N)=S | C16H17N5O2S
reactant | 1-bromomethyl cyclopropyl ketone | 0.165 g | C1(CC1)C(=O)CBr | C5H7BrO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(4-cyclopropylthiazol-2-yl)-4,5-dihydro-5-(morpholinocarbonyl)imidazo[1,5-a]quinoxaline | C1(CC1)C=1N=C(SC1)C=1N=CN2C1CN(C1=CC=CC=C21)C(=O)N2CCOCC2 | C21H21N5O2S
